* c:\fossee\esim\library\subcircuitlibrary\2bitvm\2bitvm.cir

.include and_test.sub
.include HA_test.sub
x1 net-_x1-pad1_ net-_x1-pad2_ /p1 net-_x1-pad4_ HA_test
x2 net-_x1-pad4_ net-_x2-pad2_ /p2 /p3 HA_test
* u1  /a0 /b0 /a1 /b1 /p0 /p1 /p2 /p3 port
x3 /a0 /a1 /p0 and_test
x4 /a0 /b1 net-_x1-pad1_ and_test
x5 /b0 /a1 net-_x1-pad2_ and_test
x6 /b0 /b1 net-_x2-pad2_ and_test
.tran 1e-12 10e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
