* Subcircuit 2bitVM
.subckt 2bitVM /a0 /b0 /a1 /b1 /p0 /p1 /p2 /p3 
* c:\fossee\esim\library\subcircuitlibrary\2bitvm\2bitvm.cir
.include and_test.sub
.include HA_test.sub
x1 net-_x1-pad1_ net-_x1-pad2_ /p1 net-_x1-pad4_ HA_test
x2 net-_x1-pad4_ net-_x2-pad2_ /p2 /p3 HA_test
x3 /a0 /a1 /p0 and_test
x4 /a0 /b1 net-_x1-pad1_ and_test
x5 /b0 /a1 net-_x1-pad2_ and_test
x6 /b0 /b1 net-_x2-pad2_ and_test
* Control Statements

.ends 2bitVM