* c:\users\user\onedrive\documents\projects\4bit_vm\4bit_vm.cir

.include 2bitVM.sub
.include Mod_Adder2_test.sub
.include Mod_Adder3_test.sub
.include ModAdd1_test.sub
x1 /a2 /b2 /a3 /b3 net-_x1-pad5_ net-_x1-pad6_ net-_x1-pad7_ net-_x1-pad8_ 2bitVM
x3 /a2 /b0 /a3 /b1 net-_x3-pad5_ net-_x3-pad6_ net-_x3-pad7_ net-_x3-pad8_ 2bitVM
x6 /a0 /b2 /a1 /b3 net-_x4-pad1_ net-_x4-pad3_ net-_x4-pad5_ net-_x4-pad7_ 2bitVM
x7 /a0 /b0 /a1 /b1 /s0 /s1 net-_x5-pad6_ net-_x5-pad4_ 2bitVM
x4 net-_x4-pad1_ net-_x3-pad5_ net-_x4-pad3_ net-_x3-pad6_ net-_x4-pad5_ net-_x3-pad7_ net-_x4-pad7_ net-_x3-pad8_ net-_x4-pad9_ net-_x4-pad10_ net-_x4-pad11_ net-_x4-pad12_ net-_x2-pad5_ ModAdd1_test
x5 net-_x4-pad12_ net-_x4-pad11_ net-_x4-pad10_ net-_x5-pad4_ net-_x4-pad9_ net-_x5-pad6_ /s2 /s3 net-_x2-pad1_ net-_x2-pad3_ net-_u1-pad18_ Mod_Adder2_test
x2 net-_x2-pad1_ net-_x1-pad5_ net-_x2-pad3_ net-_x1-pad6_ net-_x2-pad5_ net-_x1-pad7_ net-_x1-pad8_ /s4 /s5 /s6 /s7 net-_u1-pad17_ Mod_Adder3_test
* u1  /b3 /b2 /s7 /s6 /s5 /b1 /s4 /b0 /s3 /a3 /s2 /a2 /a1 /s1 /a0 /s0 net-_u1-pad17_ net-_u1-pad18_ port
i1 /a0 gnd  dc 1v
i2 /a1 gnd  dc 1v
i3 /a2 gnd  dc 1v
i4 /a3 gnd  dc 1v
i5 /b0 gnd  dc 1v
i6 /b1 gnd  dc 1v
i7 /b2 gnd  dc 1v
i8 /b3 gnd  dc 1v
.tran 1e-12 10e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
