* c:\fossee\esim\library\subcircuitlibrary\fa_test\fa_test.cir

m1  net-_m1-pad1_ /a /b /vdd esim_mos_p
m2  net-_m1-pad1_ /a net-_m2-pad3_ gnd esim_mos_n
m6  /c net-_m1-pad1_ net-_m6-pad3_ gnd esim_mos_n
m3  net-_m2-pad3_ /b gnd gnd esim_mos_n
m7  net-_m6-pad3_ /c gnd gnd esim_mos_n
m4  net-_m1-pad1_ /b /a /vdd esim_mos_p
m5  /c net-_m1-pad1_ /c /vdd esim_mos_p
m8  /c /c net-_m1-pad1_ /vdd esim_mos_p
v1 /vdd gnd  dc 0
* u1  /a /b /c /c /c port
.tran 1e-12 10e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
