* Subcircuit HA_test
.subckt HA_test net-_m1-pad2_ /b /sum net-_m2-pad1_ 
* c:\fossee\esim\library\subcircuitlibrary\ha_test\ha_test.cir
m3  net-_m1-pad1_ net-_m1-pad2_ net-_m3-pad3_ net-_m3-pad3_ esim_mos_p
m1  net-_m1-pad1_ net-_m1-pad2_ gnd gnd esim_mos_n
m4  net-_m2-pad1_ net-_m1-pad2_ gnd net-_m3-pad3_ esim_mos_p
m2  net-_m2-pad1_ net-_m1-pad2_ /b gnd esim_mos_n
m6  /sum /b net-_m1-pad2_ net-_m3-pad3_ esim_mos_p
m5  /sum /b net-_m1-pad1_ gnd esim_mos_n
v1 net-_m3-pad3_ gnd  dc 0
* Control Statements

.ends HA_test