* c:\fossee\esim\library\subcircuitlibrary\modadd1_test\modadd1_test.cir

.include FA_test.sub
.include HA_test.sub
x1 /x0 /y0 /f0 net-_x1-pad4_ HA_test
x3 /x1 /y1 net-_x1-pad4_ /f1 net-_x2-pad3_ FA_test
x2 /x2 /y2 net-_x2-pad3_ /f2 net-_x0-pad3_ FA_test
x0 /x3 /y3 net-_x0-pad3_ /f3 /c1 FA_test
* u1  /y3 /c1 /x3 /f3 /y2 /f2 /x2 /y1 /f1 /x1 /y0 /f0 /x0 port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
