* c:\fossee\esim\library\subcircuitlibrary\mod_adder2_test\mod_adder2_test.cir

.include FA_test.sub
.include HA_test.sub
x0 net-_x0-pad1_ /f3 /p3 /gnd HA_test
x1 net-_x1-pad1_ /f2 /p2 net-_x0-pad1_ HA_test
x3 /w2 /f0 /s2 net-_x2-pad1_ HA_test
x2 net-_x2-pad1_ /w3 /f1 /s3 net-_x1-pad1_ FA_test
* u1  /gnd /f3 /p3 /f2 /p2 /f1 /w3 /s3 /f0 /s2 /w2 port
.tran 1e-12 10e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
