* c:\fossee\esim\library\subcircuitlibrary\mod_adder3_test\mod_adder3_test.cir

.include FA_test.sub
.include HA_test.sub
x4 net-_x3-pad5_ /z3 /s7 /gnd HA_test
x1 /p2 /z0 /s4 net-_x1-pad4_ HA_test
x3 /c1 /z2 net-_x2-pad5_ /s6 net-_x3-pad5_ FA_test
x2 /p3 /z1 net-_x1-pad4_ /s5 net-_x2-pad5_ FA_test
* u1  /z3 /gnd /s7 /z2 /s6 /c1 /z1 /s5 /p3 /z0 /p2 /s4 port
.tran 1e-12 10e-09 0e-12

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
