* c:\fossee\esim\library\subcircuitlibrary\and_test\and_test.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 net-_m1-pad1_ /a /vdd /vdd CMOSP W=100u L=100u M=1
m4 net-_m1-pad1_ /b /vdd /vdd CMOSP W=100u L=100u M=1
m6 /y net-_m1-pad1_ /vdd /vdd CMOSP W=100u L=100u M=1
m2 net-_m1-pad1_ /a net-_m2-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m2-pad3_ /b gnd gnd CMOSN W=100u L=100u M=1
m5 /y net-_m1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
v1 gnd /vdd  dc 1
* u1  /a /b /y port
.tran 1e-12 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
