* Subcircuit and_test
.subckt and_test /a /b /y 
* c:\fossee\esim\library\subcircuitlibrary\and_test\and_test.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 net-_m1-pad1_ /a /vdd /vdd CMOSP W=100u L=100u M=1
m4 net-_m1-pad1_ /b /vdd /vdd CMOSP W=100u L=100u M=1
m6 /y net-_m1-pad1_ /vdd /vdd CMOSP W=100u L=100u M=1
m2 net-_m1-pad1_ /a net-_m2-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m2-pad3_ /b gnd gnd CMOSN W=100u L=100u M=1
m5 /y net-_m1-pad1_ gnd gnd CMOSN W=100u L=100u M=1
v1 gnd /vdd  dc 1
* Control Statements

.ends and_test